US04289768
A mixture of 1 g of 2-chloro-10-[3-(imidazol-1-yl)-propionyl]-phenothiazine-5-oxide, 4 ml of 30% H2O2 and 40 ml of acetic acid is stirred for 3 hours at 45° and is worked up in the customary manner to give 2-chloro-10-[3-(imidazol-1-yl)-propionyl]-phenothiazine-5,5-dioxide, melting point 134°-135° (decomposition). Hydrochloride, melting point 200°-201°.

reactant | 2-chloro-10-[3-(imidazol-1-yl)-propionyl]-phenothiazine-5-oxide | 1 g | ClC1=CC=2N(C3=CC=CC=C3S(C2C=C1)=O)C(CCN1C=NC=C1)=O | C18H14ClN3O2S
reactant | H2O2 | 4 ml | OO | H2O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-chloro-10-[3-(imidazol-1-yl)-propionyl]-phenothiazine-5,5-dioxide | ClC1=CC=2N(C3=CC=CC=C3S(C2C=C1)(=O)=O)C(CCN1C=NC=C1)=O | C18H14ClN3O3S
